US07592477B2
Step g) Formation of 4′-({([ethoxy(oxo)acetyl][4-(trifluoromethyl)benzyl]amino}methyl)-1,1′-biphenyl-4-carboxylic acid
To a solution of tert-butyl 4′-({[ethoxy(oxo)acetyl][4-(trifluoromethyl)benzyl]amino}methyl)-1,1′-biphenyl-4-carboxylate (1.37 g) in DCM (15 mL) was added TFA (15 mL). The resulting mixture was stirred for 30 min. Evaporation of the solvents gave the title compound as a colorless oil (1.10 g, 67%). M+(LC/MS(ESI)): 486.1; M−(LC/MS(ESI)): 484.6. HPLC (Condition A), Rt: 4.13 min (HPLC purity: 91.7%) 1H NMR (DMSO, 300 MHz) δ 7.94 (d, 2H, J=7.9 Hz), 7.72-7.61 (m, 6H), 7.42 (d, 1H, J=7.9 Hz), 7.33 (t, 2H, J=7.5 Hz), 7.25 (d, 1H, J=8.3 Hz), 4.49 (m, 4H), 4.20 (m, 2H), 1.10 (m, 3H).

reactant | tert-butyl 4′-({[ethoxy(oxo)acetyl][4-(trifluoromethyl)benzyl]amino}methyl)-1,1′-biphenyl-4-carboxylate | 1.37 g | C(C)OC(C(=O)N(CC1=CC=C(C=C1)C(F)(F)F)CC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)OC(C)(C)C)=O | C30H30F3NO5
reactant | TFA | 15 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
product | {([ethoxy(oxo)acetyl][4-(trifluoromethyl)benzyl]amino}methyl)-1,1′-biphenyl-4-carboxylic acid | 1.10 g, 67% | C(C)OC(C(=O)N(CC1=CC=C(C=C1)C(F)(F)F)CC1=C(C=CC(=C1)C(=O)O)C1=CC=CC=C1)=O | C26H22F3NO5
